US07022730B2
The compound Bis(4-chloroindol-3-yl)-(5-hydroxymethylfuran-2-yl)methane was prepared following procedure A, starting from 4-chloro indole and 5-hydroxymethyl furfural. LC: Tr 2.84 min, MS: 411 (M+H)+

reactant | 4-chloro indole | ClC1=C2C=CNC2=CC=C1 | C8H6ClN
reactant | 5-hydroxymethyl furfural | OCC1=CC=C(C=O)O1 | C6H6O3
product | Bis(4-chloroindol-3-yl)-(5-hydroxymethylfuran-2-yl)methane | ClC1=C2C(=CNC2=CC=C1)C(C=1OC(=CC1)CO)C1=CNC2=CC=CC(=C12)Cl | C22H16Cl2N2O2
